US07268135B2
Alkylation of 2-Bromomethyl-naphthalene with 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol was carried out according to procedures in Step 5A in Example 2A to give 4,4,5,5-Tetramethyl-2-[4-(naphthalen-2-ylmethoxy)-phenyl]-[1,3,2]dioxaborolane in 85% yield. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.3 (s, 12 H) 5.3 (s, 2 H) 7.0 (d, J=8.6 Hz, 2 H) 7.5 (m, 2 H) 7.5 (dd, J=8.3, 1.8 Hz, 1 H) 7.8 (d, J=8.6 Hz, 2 H) 7.9 (m, 4 H).

reactant | 2-Bromomethyl-naphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
product | 4,4,5,5-Tetramethyl-2-[4-(naphthalen-2-ylmethoxy)-phenyl]-[1,3,2]dioxaborolane | 85% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)OCC1=CC2=CC=CC=C2C=C1)C | C23H25BO3
